US06156774
2-[5-(4,5-Dicarboxytriazol-1-ylmethyl)thien-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine
A solution of sodium sulphide nonahydrate (1.09 g) in water (6 ml) was added to a stirred solution of 2-[5-{4,5-di(methoxycarbonyl)triazol-1-ylmethyl}thien-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester (Description 71) (400 mg) in methanol (6 ml). The mixture partitioned between ethyl acetate and water. The organic phase was washed with water and brine, dried over magnesium sulphate and evaporated. The residue was crystallised by trituration with ether and ethyl acetate, and the solid filtered off and washed with ether then dried under vacuum to give the title compound (92 mg). vmax (nujol) 3294, 1732, 1643 cm-1. m/z (M-H-).

reactant | sodium sulphide nonahydrate | 1.09 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | 2-[5-{4,5-di(methoxycarbonyl)triazol-1-ylmethyl}thien-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester | 400 mg | C(C)OC(C(NC(C(CCC1=CC=CC=C1)CSC(C)=O)=O)C=1SC(=CC1)CN1N=NC(=C1C(=O)OC)C(=O)OC)=O | C28H32N4O8S2
solvent | water | 6 ml | O | H2O
solvent | methanol | 6 ml | CO | CH4O
product | 2-[5-(4,5-Dicarboxytriazol-1-ylmethyl)thien-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine | 92 mg | C(=O)(O)C=1N=NN(C1C(=O)O)CC1=CC=C(S1)C(NC(C(CCC1=CC=CC=C1)CS)=O)C(=O)O | C22H22N4O7S2
